US06156767
{2-[5-[2-(7-Aza-bicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]-ethyl}carbamic acid tert-butyl ester
To a stirred solution of 2-[3-(2-tert-butoxycarbonylaminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid (247 mg in 3 mL dry methylene chloride) was added 1-hydroxybenzotriazole (111 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (126 mg) and the reagents allowed to mix for 1 hour. At this time a solution of 7-aza-bicyclo[2.2.]heptane hydrochloride (130 mg in 1.5 mL methylene chloride) was added followed by 0.15 mL triehtylamine and the reaction stirred at room temperature. After 20 hours, the mixture was concentrated in vacuo and purified by flash chromatography on silica gel (hexane:ethyl acetate, 1:1) to give the title compound (252 mg).

reactant | 2-[3-(2-tert-butoxycarbonylaminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid | 3 mL, 247 mg | C(C)(C)(C)OC(=O)NCCC1=C(NC2=CC=C(C=C12)C(C(=O)O)(C)C)C1=CC(=CC(=C1)C)C | C27H34N2O4
reactant | 1-hydroxybenzotriazole | 111 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 126 mg | Cl.CN(CCCN=C=NCC)C
reactant | heptane hydrochloride | 1.5 mL, 130 mg | Cl.CCCCCCC
solvent | triehtylamine | 0.15 mL | C(C)N(CC)CC | C6H15N
product | {2-[5-[2-(7-Aza-bicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]-ethyl}carbamic acid tert-butyl ester | 252 mg | C(C)(C)(C)OC(NCCC1=C(NC2=CC=C(C=C12)C(C(=O)N1C2CCC1CC2)(C)C)C2=CC(=CC(=C2)C)C)=O | C33H43N3O3
